US06034241
Preparation of 2-hydroxy-N-(8-quinaldinyl)-2-methylpropionamide
To a solution of 8-hydroxyquinaldine (722 mg, 3.70 mmol) in dioxane (20 mL) was added NaH (Aldrich, dry, 300 mg, 12.2 mmol) and Cs2CO3 (4.00 g, 12.2 mmol). The resulting mixture was stirred at room temperature for about 30 minutes, then 2-bromo-2-methyl-propanamide (2.03 g, 12.2 mmol) was added and the resulting mixture was stirred at reflux for 16 h. After the reflux period, NMP (20 mL), DMPU (2 mL), and NaH (Aldrich, dry, 100 mg, 4.07 mmol) were added. The resulting mixture was stirred at 150° C. for 72 h. The reaction was cooled to room temp., and partitioned between water (50 mL) and EtOAc (100 mL). The aqueous layer was extracted with EtOAc (100 mL) and the combined organics washed with water (50 mL), dried (Na2SO4), and concentrated to about 3 g of material. The brown oil, the rearrangement product, was chromatographed on silica (200 mL, 4 cm diam. column), eluting with 3:7 EtOAc/hexane to obtain the product as an off-white solid (610 mg, 2.50 mmol, 67.6% yield).: mp 143-144° C.: 1H NMR (300 MHz, CDCl3) δ10.99 (br s, 1 H, N--H), 8.76-8.73 (m, 1 H), 8.03 (d, 1 H, J=8.26), 7.48-7.45 (om's, 2 H), 7.32 (d, 1 H, J=9.21), 2.80 (br s, 1 H, O--H), 2.75 (s, 3 H, Ar--CH3), 1.62 (s, 6 H, C(CH3)2); 13C NMR (75 MHz, CDCl3) δ174.9, 157.4, 138.2, 136.3, 133.5, 126.2, 126.1, 122.4, 121.6, 116.3, 74.2, 28.1, 25.4; MS (CI/NH3) 245; Analysis: Calculated C 68.83, H 6.60, N 11.47; Found C 68.78, H 6.56, N 11.37.

reactant | 8-hydroxyquinaldine | 3.70 mmol, 722 mg | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NaH | 12.2 mmol, 300 mg | [H-].[Na+]
reactant | Cs2CO3 | 12.2 mmol, 4.00 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-2-methyl-propanamide | 12.2 mmol, 2.03 g | BrC(C(=O)N)(C)C | C4H8BrNO
reactant | NaH | 4.07 mmol, 100 mg | [H-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DMPU | 2 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 2-hydroxy-N-(8-quinaldinyl)-2-methylpropionamide | 2.50 mmol, 610 mg, 67.6% yield | OC(C(=O)NC=1C=CC=C2C=CC(=NC12)C)(C)C | C14H16N2O2
